2180-01-29 08:10:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
   -bil LENIs negative for DVT.
   -switched from dilt drip to po digoxin with close EKG monitoring as
   patient's SBP was low in the 80s and it was felt that digoxin would
   provide rate control with less effects on blood pressure. Patient
   converted to NSR overnight, now on 0.125 mg daily of digoxin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2180-1-29**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-29**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 103 (89 - 103) bpm
   BP: 112/59(73) {84/57(62) - 112/80(84)} mmHg
   RR: 12 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                     87 mL
                  PO:
                  TF:
   IVF:
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    250 mL
   Urine:
                                                                  1,350 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,263 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   GEN: elderly male, NAD, alert
   CV: RRR, no murmurs, rubs, gallops
   PULM: CTAB, diminished breath sounds at LLL, no crackles or wheezing.
   ABD: soft, non-tender, non-distended
   LIMBS: no edema, wwp, 2+ DP bil.
   SKIN: no rash
   Labs / Radiology
   150 K/uL
   11.3 g/dL
   67 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   14 mg/dL
   95 mEq/L
   131 mEq/L
   33.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2180-1-28**]  05:52 AM
                             [**2180-1-28**]  06:12 AM
                             [**2180-1-28**]  06:20 AM
                             [**2180-1-28**]  06:27 AM
                             [**2180-1-28**]  01:38 PM
                             [**2180-1-29**]  04:30 AM
   WBC
   7.7
   6.8
   Hct
   36.0
   33.5
   Plt
   144
   150
   Cr
   0.6
   0.6
   0.7
   TCO2
   22
   19
   Glucose
   104
   91
   67
   Other labs: PT / PTT / INR:12.0/33.9/1.0, Lactic Acid:1.9 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: Final CXR read:
   In the interval, all vascular and interstitial structures have
   increased, likely to reflect massive bilateral fluid retention. This
   could be explained by pulmonary edema or diffuse lymphangitis
   carcinomatosis. Presence of bilateral reticular opacities in both lungs
   strongly suggests diffuse metastasis. Mild cardiomegaly.
   Bil LENIs: negative for DVT
   Echo: Mild symmetric left ventricular hypertrophy LVEF: >55%. Trivial
   MR, trace aortic regurg, and mild pulmonary artery systolic
   hypertension. No pericardial effusion.
   Final CT chest read:
   1. Extensive right main, segmental and subsegmental pulmonary emboli
   without right heart strain. Possible developing right upper lobe
   infarct.
   2. Left upper lobe mass with extensive pulmonary and osseous
   metastases.
   3. Moderate-sized loculated left pleural effusion, slightly increased
   in size
   from prior, with resolution of previously noted left pneumothorax.
   Microbiology: None.
   Assessment and Plan
   Mr. [**Known lastname **] is a 65 yo M w/hx of stage IV NSCLC (EGFR mutation +)  admitted
   with large right main bronchus PE who developed A. fib with RVR on
   admission and respiratory distress.
   .
   1.  Respiratory distress.  Patient is known to have large PE and is
   anticoagulated with lovenox.  On admission, pt
s respiratory status
   worsened with A. fib with RVR to 150s and further deteriorated after
   getting 1LNS.  CXR demonstrated ?pulmonary edema likely secondary to
   fluids and rapid ventricular rate.  ABG demonstrated respiratory
   alkalosis and hypoxia with PAO2 of 93 on NRB.  Also possible worsening
   interstitial disease secondary to malignancy progression. He was
   diuresed with lasix, rate controlled with dilt drip then transitioned
   to po digoxin given SBPs in the 80s, treated with BiPAP and now on high
   flow mask with 5L oxygen with improvement in his respiratory status
   this morning.
   - Attempt to wean oxygen as tolerated.
   - Continue lovenox for PE.
   - Rate control with digoxin 0.125 mg daily.
   - monitor respiratory status
   - Per Dr. [**Last Name (STitle) 852**] (oncologist) No ertonolib tx this admission for
   treatment of NSCLC.  IP saw pt  on [**1-28**] per Dr.[**Name (NI) 11944**] request for
   palliative throracentesis; not done as fluid amt too small to provide
   substantial benefit.
   -Given that pt is unlikely to require intubation, consider advancing
   diet today.
   .
   2. Atrial fibrillation with RVR.  Secondary to respiratory distress
   from known pulmonary processes.Low blood pressures make diltiazem
   boluses challenging, so initially placed on diltiazem drip then
   switched to po digoxin. Patient converted to NSR overnight on [**2180-1-28**].
   - continue 0.125 mg digoxin daily.
   - monitor HR.
   .
   3.  Pulmonary Embolism: Patient at high risk given malignancy.
   - Continue anticoagulation with lovenox
   - LENIs done for ?usefulness of IVC filter placement; negative for bil
   DVT.
   .
   3. NSCLC.  Patient NSCLC with primary left apical lesion and mets to
   the spine, sternum, ribs and basal ganglia.  Patient has been  screened
   for DFHCC 09-210, erlotinib.  Not to be given this admission.
   - morphine for pain control
   .
   3. Hyponatremia.  Labs consistent with SIADH, likely secondary to lung
   cancer.
   - continue to trend [**Hospital1 **], now improved to 131.
   - Continue 1L daily fluid restriction.
   .
   ICU Care
   Nutrition: NPO, but may consider advancing diet today.
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2180-1-28**] 06:26 AM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With patient, family is daughter [**Name (NI) 11917**] [**Name (NI) **]
   [**Telephone/Fax (1) 11918**]; [**First Name9 (NamePattern2) 11919**] [**Known lastname **] [**Telephone/Fax (1) 11920**]
   Code status: Full code
   Disposition: ICU, could be called out today.

2180-01-29 10:40:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolism
   Atrial Fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2180-1-28**] 10:30 AM
   -Patient converted to sinus rhythm
   -Patient with subjective improvement in dyspnea
   -Patient with mild asymmetry of pupils
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2180-1-29**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2180-1-29**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 99 (89 - 103) bpm
   BP: 120/76(87) {84/57(62) - 120/76(87)} mmHg
   RR: 20 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                     87 mL
                  PO:
                  TF:
   IVF:
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    250 mL
   Urine:
                                                                  1,350 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,263 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   150 K/uL
   67 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   14 mg/dL
   95 mEq/L
   131 mEq/L
   33.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2180-1-28**]  05:52 AM
                             [**2180-1-28**]  06:12 AM
                             [**2180-1-28**]  06:20 AM
                             [**2180-1-28**]  06:27 AM
                             [**2180-1-28**]  01:38 PM
                             [**2180-1-29**]  04:30 AM
   WBC
   7.7
   6.8
   Hct
   36.0
   33.5
   Plt
   144
   150
   Cr
   0.6
   0.6
   0.7
   TCO2
   22
   19
   Glucose
   104
   91
   67
   Other labs: PT / PTT / INR:12.0/33.9/1.0, Lactic Acid:1.9 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CT--Right main segmental and sub-segmental PE's.  Mod
   loculated Left Pleural Effusion.  CXR
Moderate increase in interstitial
   markings and loss of lung volume on left side consistent with known
   effusion.
   Assessment and Plan
   65 yo with stage IV lung cancer admitted 2 days ago with PE
   compliacated by A-Fib and now maintained in ICU.
   1) ATRIAL FIBRILLATION (AFIB)-_conversion to NSR this morning, this may
   well be related to acute insult of PE and now with continued risk for
   recurrence and tachycardia.
   -WIll maintain on Digoxin at this time
   -Follow on telemetry
   2) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-Compromise secondary to PE
   and known lung cancer most prominently.  He still remains with
   substantial and significant oxygen requirement.
   -Wean O2 as tolerated-likely to evolve over the course of days.
   -Continue treatment for  PE
   -Effusion evalauted and not adequate volume for drainage but will have
   to be followed
   -Repeat CXR tomorrow
   -Aspiration precautions
   3) PULMONARY EMBOLISM (PE), ACUTE-
   -Continue with anticoagulation at this time
   -Lovenox 60mg q 12 hours at therapeutic doses
   4) CANCER (MALIGNANT NEOPLASM), LUNG-
   -Will need to achieve adeuqate functional status to consider start of
   chemotherapy
   -Will continue to be seen by oncology to consider intervention and
   timing of chemotherapy
   ICU Care
   Nutrition: PO diet to return today
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-1-28**] 06:26 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2180-01-31 07:12:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 4**] Admission: Hypercarbic Respiratory Failure
   24 Hour Events:
   - Patient and family notified of possibility of intubation if worsening
   status; patient confirms he is full code
   - patient intubated due to worsening respiratory distress, tachycardia
   with frequent runs of SVT to 160s that responded to vagal maneuvers,
   and tiring
   - patient went into a. fib with RVR following intubation
   - hypotensive requiring neo after intubation
   - Right subclavian, a. line placed (by [**Doctor First Name **])
   - Started ARDSnet ventilation AC 400 x 20, 80%, PEEP 8 started at
   12:00, struggled with synchrony, tried on PSV, PC, SIMV, APRV,
   ultimately paralyzed and put on LTTV (AC 350/30/10/100)
   - progressive hypotension this am to 70s/50s, now on maximum dose of
   phenylephrine, norepinephrine and vasopressin.
 INVASIVE VENTILATION - START [**2180-1-30**] 08:53 PM
 MULTI LUMEN - START [**2180-1-30**] 10:08 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-1-29**] 06:08 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2180-1-30**] 07:58 AM
   Propofol - [**2180-1-31**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-1-31**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 114 (90 - 130) bpm
   BP: 84/62(71) {84/54(10) - 105/72(86)} mmHg
   RR: 18 (11 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (14 - 19)mmHg
   Total In:
                                                                  2,611 mL
                                                                  1,431 mL
   PO:
   TF:
   IVF:
                                                                  2,611 mL
                                                                  1,431 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    125 mL
   Urine:
                                                                    325 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,286 mL
                                                                  1,306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 542 (542 - 766) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 43.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.15/60/73.[**Numeric Identifier 252**]/19/-8
   Ve: 5.8 L/min
   PaO2 / FiO2: 91
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   10.8 g/dL
   106 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.5 mEq/L
   15 mg/dL
   105 mEq/L
   134 mEq/L
   33.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  01:38 PM
                             [**2180-1-29**]  04:30 AM
                             [**2180-1-30**]  04:15 AM
                             [**2180-1-30**]  08:22 AM
                             [**2180-1-31**]  12:24 AM
                             [**2180-1-31**]  02:54 AM
                             [**2180-1-31**]  03:04 AM
                             [**2180-1-31**]  04:23 AM
                             [**2180-1-31**]  05:53 AM
                             [**2180-1-31**]  06:36 AM
   WBC
   6.8
   7.2
   8.2
   Hct
   33.5
   33.1
   33.2
   Plt
   150
   162
   200
   Cr
   0.6
   0.7
   0.5
   0.6
   TCO2
   23
   24
   23
   22
   23
   22
   Glucose
   91
   67
   102
   106
   Other labs: PT / PTT / INR:12.0/33.9/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**2180-1-30**]:
   Increasing parenchymal opacity is seen at the right lung diffusely,
   particularly in the upper lobe as well as in the left lower and mid
   lung
   zones. The pattern is most consistent with a combination of alveolar
   and
   interstitial disease. There is a left-sided pleural effusion that
   appears
   similarly to the prior study. The heart size is not changed
   substantially
   since the prior study and there is no PTX.
   IMPRESSION: Worsening airspace disease nonspecific - pneumonia, CHF or
   ARDS should be considered.
   Mr. [**Known lastname **] is a 65 yo M w/hx of stage IV NSCLC (EGFR mutation +)  admitted
   with large right PE who developed A. fib with RVR on admission and now
   with ARDS and shock.
   .
   1.  ARDS
 hypoxemic respiratory failure.  Patient now intubated and
   paralyzed on LTVV, requiring FiO2 of 100%.
   - continue LTTV, increase PEEP and decreased FiO2 as tolerated,
   maxiumum plateau pressure of 30.
   2. ARDS
 hypercarbic respiratory failure.  Patient becoming
   preogressively more hypercarbic.
   -titrate up RR, TV as needed to reduce acidemia.
   - fluid bolus with LR
   3. Shock.  Likely cardiogenic, [**12-21**] PE and now with decreased pre load
   from positive pressure ventilation.  Possibly hypovolemic, but given ~
   4L
   Patient is known to have large PE and is anticoagulated with lovenox.
   Now with worsening hypoxia, requiring a NRB.  ABG c/w PE, tachypnea.
   CXR shows dramatically worsening opacity in RUL, c/w PNA/pulmonary
   edema or ARDS.  As no clinical signs of infection or fluid overload,
   this most likely represents sequelae of his large PE, perhaps a
   pulmonary infarct, leading to ARDS.  Also possible lymphangitic
   carcinomatosis, but acuity of course argues against this.  Currently
   oxygenating well on NRB, but his respiratory status is clearly
   deteriorating.
   - Attempt to wean oxygen as tolerated.
   - Continue lovenox for PE.
   - Rate control with digoxin 0.125 mg daily.
   - monitor respiratory status
   - intubate if respiratory status worsens significantly
   .
   2. Atrial fibrillation with RVR.  On dig, now in sinus tachycardia.
   This is likely secondary to his PE.
   - continue 0.125 mg digoxin daily.
   - monitor HR.
   .
   3.  Pulmonary Embolism: Patient at high risk given malignancy.
   - Continue anticoagulation with lovenox
   - LENIs done for ?usefulness of IVC filter placement; negative for bil
   DVT.
   .
   3. NSCLC.  Patient NSCLC with primary left apical lesion and mets to
   the spine, sternum, ribs and basal ganglia.  Patient has been  screened
   for DFHCC 09-210, erlotinib.  Not to be given this admission.
   - morphine for pain control
   .
   3. Hyponatremia.  Labs consistent with SIADH, likely secondary to lung
   cancer.
   - trend serum Na
   - Continue 1L daily fluid restriction.
   .
   ICU Care
   Nutrition: Regular, Mechanical Soft, 1.5L fluid restriction
   Glycemic Control: Blood sugar well controlled
   Lines:
   L subclavian CVL
   20 Gauge - [**2180-1-28**] 06:26 AM
   Prophylaxis:
   DVT: LMW Heparin(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With patient, family is daughter [**Name (NI) 11917**] [**Name (NI) **]
   [**Telephone/Fax (1) 11918**]; [**First Name9 (NamePattern2) 11919**] [**Known lastname **] [**Telephone/Fax (1) 11920**]
   Code status: Full code

2180-01-31 09:28:00 Physician Attending Progress Note
Chief Complaint: PE
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2180-1-30**] 08:53 PM
 MULTI LUMEN - START [**2180-1-30**] 10:08 PM
   -Patient intubated with persistent and worsening hypoxia as well as
   triggered SVT
   -Patient with extensive discussions with family prior to intubation
   given concern for impending death
   -Patient with severe hypoxemia and respiratory acidosis progressing
   across the past 12 hours not responsive to PCV/CMV/APRV itnervention
   despite sedation to the point of requiring 3 pressors at this time and
   patient now paralyzed to allow establishment of effective ventilation.
   -Patient with worsening hypotension now requiring 3 pressors to support
   blood pressure through to this morning.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-1-29**] 06:08 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Phenylephrine - 5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.45 mcg/Kg/min
   Cisatracurium - 0.06 mg/Kg/hour
   Other ICU medications:
   Propofol - [**2180-1-31**] 04:47 AM
   Cisatracurium - [**2180-1-31**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2180-1-31**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 119 (90 - 130) bpm
   BP: 86/69(78) {60/51(10) - 105/72(86)} mmHg
   RR: 30 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 20 (14 - 20)mmHg
   Total In:
                                                                  2,611 mL
                                                                  2,638 mL
   PO:
   TF:
   IVF:
                                                                  2,611 mL
                                                                  2,638 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                    140 mL
   Urine:
                                                                    325 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,286 mL
                                                                  2,498 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 380 (380 - 450) mL
   Vt (Spontaneous): 542 (542 - 766) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.15/60/73.[**Numeric Identifier 252**]/19/-8
   Ve: 11.5 L/min
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   200 K/uL
   106 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.5 mEq/L
   15 mg/dL
   105 mEq/L
   134 mEq/L
   33.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2180-1-28**]  01:38 PM
                             [**2180-1-29**]  04:30 AM
                             [**2180-1-30**]  04:15 AM
                             [**2180-1-30**]  08:22 AM
                             [**2180-1-31**]  12:24 AM
                             [**2180-1-31**]  02:54 AM
                             [**2180-1-31**]  03:04 AM
                             [**2180-1-31**]  04:23 AM
                             [**2180-1-31**]  05:53 AM
                             [**2180-1-31**]  06:36 AM
   WBC
   6.8
   7.2
   8.2
   Hct
   33.5
   33.1
   33.2
   Plt
   150
   162
   200
   Cr
   0.6
   0.7
   0.5
   0.6
   TCO2
   23
   24
   23
   22
   23
   22
   Glucose
   91
   67
   102
   106
   Other labs: PT / PTT / INR:12.0/33.9/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: AG-10
   7.04/70/132
   Imaging: CXR-
   Assessment and Plan
   65 yo male with history of lung cancer and admitted with PE complicated
   by A-fib and hypoxemic respiratory failure.  He has had substantial
   worsening across past 24 hours now to the point of persistent and dense
   hypoxemic respiratory failure and severe shock likely secondary to both
   compromise of right heart SV in the setting of ARDS as well as
   vasodilatory shock in the setting of ARDS.
   1)Respiratory Failure-have pursued alternative modes of ventilation but
   still have severe respiratory acidosis in the setting of some improved
   capacity to stabilize oxygenation on FIO2 of 1.0.  We are left,
   however, with persistent and severe hypercarbic respiratory failure.
   This is attributable to significant dead space ventilation which has
   unfortunately progressed at this time.  This may be due to ineffective
   perfusion, overdistention of non-dependent lung units.  We have RR at a
   maximum at this time.  For his respiratory failure we will
   A)Hypoxemia
he will have PEEP titration today to determine optimal PEEP
   and hopefully allow some down titration of FIO2
   -Fent/Versed/Cisatra--at
 to allow passive support today
   -Will maintain FIO2 at 1.0
   -Will have to consider move to prone position if we are unable to
   maintain effective saturation with above measures.
   B)Hypercapnic Respiratory Failure-
   -This will have to be improved given severe acidemia
   -Will increase RR to 30 as possible
   -Will remove dead space from ventilatory circuit
   -Will have to increase tidal volume even though we will move beyond
   6cc/Kg given inability to maintain acceptable ventilation at this time
   -Will trial fluid bolus if are left with persistent and severe
   compromise of effective ventilation
   2)Shock-
   -Will need to evaluate CvO2 this morning to aid in confirmation of
   source of shock which at this point may well be a dominant finding of
   vasodilatory shock where what may have been a relative hypovolemic
   state at the onset.  In addition
we will need reasonable assessment of
   CVP at this time with a goal CVP of approximately 12 viewed as
   significant evidence against hypovolemic shock
   -Will check CvO2 to guide differential
   -Will send cultures for possible septic source if fever seen
   -Vasopressin 0.4-Levophed 0.45-Neo to continue
will look to correct pH
   as we can with ventilator and will utilize HCO3- as needed for blood
   pressure response
   -Will check ECG for possible myocardial ischemia
   -Do not see evidence of recurrent PE but is certainly of concern
   3) ATRIAL FIBRILLATION (AFIB)
   -Rate control as needed
   -SR for now
   4) PULMONARY EMBOLISM (PE), ACUTE
   -On Lovenox
   5) CANCER (MALIGNANT NEOPLASM), LUNG-
   -Will update primary oncology team in light of
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-1-28**] 06:25 AM
   18 Gauge - [**2180-1-30**] 09:30 PM
   Multi Lumen - [**2180-1-30**] 10:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 105 minutes

2180-02-01 07:35:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 4**] Admission: Pulmonary Embolism, Hypercarbic/hypoxic respiratory
   failure
   24 Hour Events:
   - Discussion held with family regarding expectations and goals of care.
   There was disagreement amongst family members regarding
   extubation/making pt [**Name (NI) 115**].  Overnight, he was continued on pressors and
   full medical treatment.
   - started vanc/cefepime empirically
   - stopped lovenox, started heparin gtt
   - spiked fever to 102.2 at 8:00pm
   -
 EKG - At [**2180-1-31**] 09:27 AM
 BLOOD CULTURED - At [**2180-1-31**] 09:46 AM
   art
 FEVER - 102.2
F - [**2180-1-31**] 08:06 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-1-29**] 06:08 PM
   Vancomycin - [**2180-2-1**] 02:04 AM
   Cefipime - [**2180-2-1**] 04:51 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Heparin Sodium - 700 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2180-1-31**] 07:53 AM
   Lansoprazole (Prevacid) - [**2180-1-31**] 10:00 AM
   Heparin Sodium - [**2180-1-31**] 10:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-2-1**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 39
C (102.2
   Tcurrent: 38.9
C (102
   HR: 129 (103 - 134) bpm
   BP: 70/56(61) {61/49(54) - 99/70(83)} mmHg
   RR: 0 (0 - 34) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 14 (12 - 20)mmHg
   Total In:
                                                                  9,022 mL
                                                                  2,310 mL
   PO:
                                                                     35 mL
   TF:
   IVF:
                                                                  8,987 mL
                                                                  2,310 mL
   Blood products:
   Total out:
                                                                    178 mL
                                                                     15 mL
   Urine:
                                                                    178 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,844 mL
                                                                  2,295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (380 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   Vent changes yesterday:
   PEEP 10 -> 12 -> 15 -> 12
   RR 30 -> 34
   Vt 380 -> 450
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.16/51/74/19/-10
   Ve: 15.9 L/min
   PaO2 / FiO2: 74
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   129 K/uL
   10.2 g/dL
   194 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   26 mg/dL
   92 mEq/L
   126 mEq/L
   31.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2180-1-31**]  03:04 AM
                             [**2180-1-31**]  04:23 AM
                             [**2180-1-31**]  05:53 AM
                             [**2180-1-31**]  06:36 AM
                             [**2180-1-31**]  08:42 AM
                             [**2180-1-31**]  11:10 AM
                             [**2180-1-31**]  01:19 PM
                             [**2180-1-31**]  02:58 PM
                             [**2180-1-31**]  05:00 PM
                             [**2180-2-1**]  04:26 AM
   WBC
   7.3
   Hct
   31.3
   Plt
   129
   Cr
   1.8
   2.6
   TCO2
   23
   22
   23
   22
   20
   20
   19
   19
   Glucose
   240
   194
   Other labs: PT / PTT / INR:18.5/87.1/1.7, Differential-Neuts:56.0 %,
   Band:26.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:5.5
   mmol/L, Albumin:1.5 g/dL, Ca++:6.4 mg/dL, Mg++:1.4 mg/dL, PO4:4.3 mg/dL
   ABG trend:
   11:00 - 7.02/71/101/20
   1:30
 7.09/60/87/19
   3:00
 7.16/51/74/19
   This morning
 7.24/45/115
   Imaging: Final Report
   PORTABLE CHEST, [**2180-1-31**]
   COMPARISON: [**2180-1-30**].
   INDICATION: Orogastric tube placement.
   FINDINGS: Orogastric tube has been placed and terminates in the region
   of the gastroduodenal junction. The exam otherwise appears similar to
   the recent
   study with persistent diffuse bilateral alveolar opacities, left apical
   mass,
   moderate left pleural effusion and widespread skeletal metastases.
   Known pulmonary metastases are partially obscured by the acute
   pulmonary process.
   CXR [**1-31**]:
   INDICATION: Respiratory failure.
   FINDINGS: Support devices remain in standard position. Left apical
   mass,
   moderate loculated left pleural effusion, and widespread airspace
   opacities superimposed upon known pulmonary metastases do not appear
   appreciably changed in the short interval between the two studies.
   Small right pleural effusion also appears similar.
   Micro:
   Blood Culture pending [**2180-1-31**]
   Sputum Culture [**2180-1-31**]
   GRAM STAIN (Final [**2180-1-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   Assessment and Plan
   Mr. [**Known lastname **] is a 65 yo M w/hx of stage IV NSCLC (EGFR mutation +)  admitted
   with large right PE who developed A. fib with RVR on admission and now
   with ARDS, on vent with shock requiring maximal pressors.
   1. Shock.  Cause of shock likely multifactorial.  Partly cardiogenic,
   [**12-21**] PE and now with with decreased pre load from positive pressure
   ventilation.  Also intermittently in atrial fibrillation with rates as
   high as 130, possibly contributing to poor output and shock. in Less
   likely hypovolemic, but given +9L yesterday.  Spiking fevers, likely
   septic component, blood cultures urine cultures sent, startedd on broac
   spectrum antibiotics.
   - mixed venous sat, if low
   - bolus LR prn
   - target MAP 65
   - wean pressors as tolerated
   - stress dose steroids (hydrocortisone IV 50mg
   - continue vanc/cefepime, add levofloxacin
   1.  ARDS
 hypoxemic respiratory failure.  Patient now intubated and
   paralyzed on LTVV, requiring FiO2 of 100%.
   - continue LTTV, increase PEEP and decrease FiO2 as tolerated, maxiumum
   plateau pressure of 30.
   - permissive hypercapnia
   2.  ARDS
 hypercarbic respiratory failure.  Patient becoming
   progressively more hypercarbic.
   - titrate up RR, TV as needed to reduce acidemia.
   - fluid bolus with LR
   - consider IV bicarb if continues to worsen
   .
   4. Pulmonary Embolism
   - continue lovenox
   5. Atrial fibrillation with RVR.  On dig, now in sinus tachycardia.
   Several episodes of SVT and afib with RVR yesterday, in the setting of
   severe respiratory distress
   - continue 0.125 mg digoxin daily.
   - monitor HR.
   .
   6. NSCLC.  Patient NSCLC with primary left apical lesion and mets to
   the spine, sternum, ribs and basal ganglia.  Patient has been  screened
   for DFHCC 09-210, erlotinib.  Discuss goals with oncology given
   significant clinical deterioration.
   - morphine for pain control
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-1-28**] 06:25 AM
   18 Gauge - [**2180-1-30**] 09:30 PM
   Multi Lumen - [**2180-1-30**] 10:08 PM
   Arterial Line - [**2180-1-31**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2180-02-01 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pulmonary Embolism
   Lung Cancer--Metastatic
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2180-1-31**] 09:27 AM
 BLOOD CULTURED - At [**2180-1-31**] 09:46 AM
   art
 FEVER - 102.2
F - [**2180-1-31**] 08:06 PM
   -vanco/cefepime started
   -Lovenox changed to Heparin gtt
   -Continued on 3 pressors overnight
   -Recurrent atrial fibrillaiton seen overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2180-1-29**] 06:08 PM
   Vancomycin - [**2180-2-1**] 02:04 AM
   Cefipime - [**2180-2-1**] 04:51 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Heparin Sodium - 700 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Phenylephrine - 6 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2180-1-31**] 10:18 AM
   Lansoprazole (Prevacid) - [**2180-2-1**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Flowsheet Data as of  [**2180-2-1**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 39
C (102.2
   Tcurrent: 36.7
C (98.1
   HR: 109 (103 - 134) bpm
   BP: 59/47(53) {59/47(53) - 83/66(73)} mmHg
   RR: 34 (0 - 34) insp/min
   SpO2: 90%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (12 - 15)mmHg
   Total In:
                                                                  9,022 mL
                                                                  3,747 mL
   PO:
                                                                     35 mL
   TF:
   IVF:
                                                                  8,987 mL
                                                                  3,687 mL
   Blood products:
   Total out:
                                                                    178 mL
                                                                     15 mL
   Urine:
                                                                    178 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,844 mL
                                                                  3,732 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (380 - 450) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 33 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 90%
   ABG: 7.24/45/115/19/-7
   Ve: 15.9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   129 K/uL
   194 mg/dL
   2.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   26 mg/dL
   92 mEq/L
   126 mEq/L
   31.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2180-1-31**]  04:23 AM
                             [**2180-1-31**]  05:53 AM
                             [**2180-1-31**]  06:36 AM
                             [**2180-1-31**]  08:42 AM
                             [**2180-1-31**]  11:10 AM
                             [**2180-1-31**]  01:19 PM
                             [**2180-1-31**]  02:58 PM
                             [**2180-1-31**]  05:00 PM
                             [**2180-2-1**]  04:26 AM
                             [**2180-2-1**]  09:05 AM
   WBC
   7.3
   Hct
   31.3
   Plt
   129
   Cr
   1.8
   2.6
   TCO2
   22
   23
   22
   20
   20
   19
   19
   20
   Glucose
   240
   194
   Other labs: PT / PTT / INR:18.5/87.1/1.7, Differential-Neuts:56.0 %,
   Band:26.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:5.5
   mmol/L, Albumin:1.5 g/dL, Ca++:6.4 mg/dL, Mg++:1.4 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR--Good position for ETT, OGt and CVL,  Improved aeration of
   upper lobes bilaterally.
   Microbiology: BLood/Sputum/Urine pending
   Sputum-3+ GPR's, 1+ GNR, 1+ GPC
   Assessment and Plan
   65 yo male with stage IV lung cancer complicated by PE and now with
   severe ARDS and shock.  He has had ongoing efforts aimed at working for
   stabilization of his capacity to maintain adequate oxygenation and
   ventilation with ABG improved to this morning
   1)Respiratory Failure-This is a ARDS in the setting of existing PE and
   metastatic lung cancer which has shown some significant improvement in
   oxygenation and ventilation
   -Cistatracurium/Versed/Fentanyl
   -Wean FIO2 this morning
   -Continue Low Vt ventilation
will decrease to Vt=420 and keep RR at
   current levels
   -Maintain PEEP at current levels
   -Will discontinue paralytic agents at this time
   2)SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
He has substantial increase
   in volume support to 10 liters positive today and has had antibiotics
   started for vasodilatory state with high CvO2.  This morning he likely
   maintains a significant mixed picture with preload established as
   adequate but likely has a mixed picture of cardiogenic source and
   peristent vasodilatory state.
   -Levophed/Neo/Vasopressin
   -Vanco/Cefepime for possible infectious source
   -Will check CvO2 this morning
if it remains decreased
will move to
   inotrope for support
with cardiogenic source will have to consider
   possible recurrent insult with PE, Atrial Fibillation, myocardial
   stunning, myocardial supression in sepsis possible
   -If increased CvO2
will have to evaluate for alternative sources for
   persistent sepsis and do have concern for possible adrenal
   insufficiency and if increased or equivocal will move to test random
   cortisol and provide steroid replacment
   3) ATRIAL FIBRILLATION (AFIB)
   -Continue to monitor
will pursue cardioversion if needed for persistent
   hypotension and possible rate control
   4) PULMONARY EMBOLISM (PE), ACUTE-
   -Continue at current levels for Heparin and follow PTT
 CANCER (MALIGNANT NEOPLASM), LUNG-
   -Follow up per oncology who has been engaged in discussion throughout
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-1-28**] 06:25 AM
   18 Gauge - [**2180-1-30**] 09:30 PM
   Multi Lumen - [**2180-1-30**] 10:08 PM
   Arterial Line - [**2180-1-31**] 07:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 75 minutes